### PR TITLE
[Merged by Bors] - feat: refactor and expand lemmas about integration and continuous functional calculus

### PR DESCRIPTION
**Pull request by ADedecker**
- [x] depends on: #26040 
- [x] depends on: #26045 
- [x] depends on: #26050  
- [x] depends on: #26079 
- [x] depends on: #26058 

---

This PR continues the work from #25455.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25455

### CODE REVIEW

**Comment by ADedecker** [comment]
## Comments from Original PR #25455

*This section contains 4 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-06-04 20:05 UTC](https://github.com/leanprover-community/mathlib4/pull/25455#issuecomment-2941313079)):
### PR summary [0812a8e8c8](https://github.com/leanprover-community/mathlib4/pull/25455/commits/0812a8e8c8644fcebc84d6cd679d7466a74aed64)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ HasFiniteIntegral.of_isEmpty`
`+ HasFiniteIntegral.of_subsingleton`
`+ HasFiniteIntegral.of_subsingleton_codomain`
`+ Integrable.of_subsingleton`
`+ Integrable.of_subsingleton_codomain`
`+ IntegrableOn.of_subsingleton`
`+ IntegrableOn.of_subsingleton_codomain`
`+ cfcL_integrable`
`+ cfc_apply_mkD`
`+ cfc_eq_cfcL_mkD`
`+ cfc_integral₀`
`+ cfc_setIntegral`
`+ cfc_setIntegral'`
`+ cfc_setIntegral₀`
`+ cfcₙL_integrable`
`+ cfcₙ_apply_mkD`
`+ cfcₙ_eq_cfcₙL_mkD`
`+ cfcₙ_integral₀`
`+ cfcₙ_setIntegral`
`+ cfcₙ_setIntegral'`
`+ cfcₙ_setIntegral₀`
`+ continuousOn_mkD_of_uncurry`
`+ continuousOn_mkD_restrict_of_uncurry`
`+ continuous_mkD_of_uncurry`
`+ continuous_mkD_restrict_of_uncurry`
`+ integrableOn_cfc`
`+ integrableOn_cfc'`
`+ integrableOn_cfc₀`
`+ integrableOn_cfcₙ`
`+ integrableOn_cfcₙ'`
`+ integrableOn_cfcₙ₀`
`+ integrableOn_of_subsingleton_codomain`
`+ integrable_cfc`
`+ integrable_cfc'`
`+ integrable_cfc₀`
`+ integrable_cfcₙ`
`+ integrable_cfcₙ'`
`+ integrable_cfcₙ₀`
`+ integrable_of_subsingleton_codomain`
`+ mkD_eq_mkD_of_map_zero`
`+ mkD_of_not_zero`
`++ aeStronglyMeasurable_mkD_of_uncurry`
`++ aeStronglyMeasurable_mkD_restrict_of_uncurry`
`++ aeStronglyMeasurable_restrict_mkD_of_uncurry`
`++ aeStronglyMeasurable_restrict_mkD_restrict_of_uncurry`
`++ hasFiniteIntegral_mkD_of_bound`
`++ hasFiniteIntegral_mkD_restrict_of_bound`
`++ hasFiniteIntegral_of_bound`
`++ mkD`
`++ mkD_apply_of_continuous`
`++ mkD_apply_of_continuousOn`
`++ mkD_of_continuous`
`++ mkD_of_continuousOn`
`++ mkD_of_not_continuous`
`++ mkD_of_not_continuousOn`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

---

**@ADedecker** ([2025-06-04 20:07 UTC](https://github.com/leanprover-community/mathlib4/pull/25455#issuecomment-2941321385)):
@dupuisf @j-loreaux I'm leaving this as draft for now because some bits should be split from it and I don't have time for it this evening (and probably not tomorrow either), but this way you can start making more specific comments.

---

**@dupuisf** ([2025-06-04 20:27 UTC](https://github.com/leanprover-community/mathlib4/pull/25455#issuecomment-2941367886)):
I think the main thing would be to move the basic `mkD` stuff to a different file.

---

**@ADedecker** ([2025-06-04 20:37 UTC](https://github.com/leanprover-community/mathlib4/pull/25455#issuecomment-2941390825)):
Yes, this is planned, I was just doing everything in one file for my own convenience.

**Comment by ADedecker** [comment]
@j-loreaux Thanks for your suggestion, this is much better now.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 1]
```diff
@@ -35,113 +35,365 @@ open scoped ContinuousMapZero
...
+
+lemma integrable_cfc' (f : X → 𝕜 → 𝕜)
+    (bound : X → ℝ) (a : A) (hf₁ : ∀ᵐ x ∂μ, ContinuousOn (f x) (spectrum 𝕜 a))
+    (hf₂ : AEStronglyMeasurable
+      (fun x : X => mkD ((spectrum 𝕜 a).restrict (f x)) 0) μ)
+    (bound_ge : ∀ᵐ x ∂μ, ∀ z ∈ spectrum 𝕜 a, ‖f x z‖ ≤ bound x)
+    (bound_int : HasFiniteIntegral bound μ) (ha : p a := by cfc_tac) :
+    Integrable (fun x => cfc (f x) a) μ := by
+  refine integrable_cfc₀ _ _ ⟨hf₂, ?_⟩ ha
+  exact hasFiniteIntegral_mkD_restrict_of_bound _ _ hf₁ bound bound_int bound_ge
```
Comment (ADedecker) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean]: @dupuisf What do you think about getting rid of this lemma in favor of `integrable_cfc₀`? The reasoning is that these would probably not be used directly because of the annoying measurability option, so we might as well direct the user towards the more general statement.

Comment (dupuisf) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean]: Yes, I think it's fine to remove these versions.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 2]
```diff
@@ -17,12 +17,19 @@ that the integral commutes with the continuous functional calculus under appropr
...
++ `cfc_setIntegral` (resp. `cfc_integral`): given a function `f : X → 𝕜 → 𝕜`, we have that
+  `cfc (fun r => ∫ x in s, f x r ∂μ) a = ∫ x in s, cfc (f x) a ∂μ`
+  under appropriate conditions (resp. with `s = univ`)
++ `cfcₙ_setIntegral`, `cfcₙ_integral`: the same for the non-unital continuous functional calculus
++ `integrableOn_cfc`, `integrableOn_cfcₙ`, `integrable_cfc`, `integrable_cfcₙ`:
+  functions of the form `fun x => cfc (f x) a` are integrable.
+
+## Implementation Notes
+
+The lemmas mentionned above are stated under much stricter hypotheses than necessary
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean]:
```suggestion
The lemmas mentioned above are stated under much stricter hypotheses than necessary
```

**Review by dupuisf — APPROVED** [review]
Looks good, thanks a lot!

I'm too involved in this PR to merge it myself, but I'm happy with this.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean [hunk 3]
```diff
@@ -17,12 +17,19 @@ that the integral commutes with the continuous functional calculus under appropr
...
++ `cfcₙ_setIntegral`, `cfcₙ_integral`: the same for the non-unital continuous functional calculus
++ `integrableOn_cfc`, `integrableOn_cfcₙ`, `integrable_cfc`, `integrable_cfcₙ`:
+  functions of the form `fun x => cfc (f x) a` are integrable.
+
+## Implementation Notes
+
+The lemmas mentioned above are stated under much stricter hypotheses than necessary
+(typically, simultaneous continuity of `f` in the parameter and the spectrum element).
+They all come with primed version which only assume what's needed, and may be used together
+with the API developed in `Mathlib.MeasureTheory.SpecificCodomains.ContinuousMap`.
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Integral.lean:32]: It's good to have this here, but often people don't read the module documentation when they're just looking for the appropriate lemma. So I think we should document in the docstrings the differences.

E.g., something like "This version assumes joint continuity of `f`. See `foo'` for a statement with weaker assumptions." for the non-primed versions, and "For a version with stronger assumptions which in practice are often easier to verify, see `foo`." I know that will be a lot of repetition, but I think the discoverability is worth it. Let's say that you only need to add this to the lemmas which already have nonempty docstrings.

**Review by j-loreaux — COMMENTED** [review]
bors d+
